US05459152
A mixture of 3(pyridin-3-yl)-7-[1-cyanomethyl-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole (77 mg, 0.161 mmol), prepared as in Example 94, dibutyltin oxide (40 mg, 0.161 mmol), and trimethylsilylazide (47.3 μL, 0.322 mmol) in toluene (15 mL) was heated at reflux for three hours. The reaction mixture was cooled to ambient temperature and concentrated in vacuo. The crude product was azeotroped with CH2Cl2 and purified by flash chromatography on silica gel (9:1 CHCl3, methanol) to give 3-(Pyridin-3-yl)-7-[1-(1H-tetrazol-5-ylmethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole (53 mg), m.p. 110°-118° C. 1H NMR (D3COD, 300 MHz) δ45 (d; 1H, J=15 Hz), 4.63 (dd, 1H, 15, 3 Hz), 5.75 (s, 2H), 6.57 (d, 1H, J=3 Hz), 6.67 (bs, 1H), 6.98 (d, 1H, J=3 Hz, 7.15 (t, 2H, J=9 Hz), 7.45-7.51 (m, 2H), 7.67-7.77 (m, 3H), 7.79 (s, 1H), 8.25 (s, 1H), 8.31 (d, 1H, 9 Hz), 8.55 (bs, 2H). MS (FAB) m/e 522 (M+H)+.

reactant | 3(pyridin-3-yl)-7-[1-cyanomethyl-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole | 0.161 mmol, 77 mg | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CN(C1=CC(=CC=C21)C2=CC=C(C=C2)F)CC#N | C28H19FN4OS
reactant | dibutyltin oxide | 0.161 mmol, 40 mg | C(CCC)[Sn](CCCC)=O
reactant | trimethylsilylazide | 0.322 mmol, 47.3 μL | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(Pyridin-3-yl)-7-[1-(1H-tetrazol-5-ylmethyl)-6-(4-fluorophenyl)indol-3-ylcarbonyl]-1H,3H-pyrrolo[1,2-c]thiazole | 53 mg | N1=CC(=CC=C1)C1SCC=2N1C=CC2C(=O)C2=CN(C1=CC(=CC=C21)C2=CC=C(C=C2)F)CC2=NN=NN2 | C28H20FN7OS
